US05998433
To a solution of 0.377 g (1.294 mmol) of 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzaldehyde and 0.60 g (1.55 mmol) of benzyltriphenylphosphonium chloride in 30 ml of methanol, 0.30 g (1.55 mmol) of 28% sodium methoxide in methanol was added dropwise at room temperature, followed by overnight stirring at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was subjected to silica gel column chromatography (hexane/ethyl acetate=3/1) to yield 5-(stilbene-4-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine as a mixture of the (E) and (Z)-isomers.

reactant | 4-(6,7-dihydro-4H-furo[3,2-c]pyridin-5-ylsulfonyl)benzaldehyde | 1.294 mmol, 0.377 g | O1C=CC=2CN(CCC21)S(=O)(=O)C2=CC=C(C=O)C=C2 | C14H13NO4S
reactant | sodium methoxide | 1.55 mmol, 0.30 g | C[O-].[Na+]
reactant | water | O | H2O
catalyst | benzyltriphenylphosphonium chloride | 1.55 mmol, 0.60 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | 30 ml | CO | CH4O
product | 5-(stilbene-4-sulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C1(=CC=C(C=C1)S(=O)(=O)N1CC2=C(CC1)OC=C2)C=CC2=CC=CC=C2 | C21H19NO3S
